US05091419
A mixture of 0.82 g N,N'-dicycloheptyl-m-xylylenediamine, 1.26 g phenyl 2,4,6-trifluorophenylcarbamate and 50 ml toluene was heated under reflux for one hour. After cooling, the reaction mixture was washed twice with 50 ml of 1N-NaOH solution and then with sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure from the dried solution, and the residue was recrystallized from acetone, giving 1.02 g of 1,3-bis[[1-cycloheptyl-3-(2,4,6-trifluorophenyl)ureido]methyl]benzene.

reactant | N,N'-dicycloheptyl-m-xylylenediamine | 0.82 g | C1(CCCCCC1)NCC1=CC(=CC=C1)CNC1CCCCCC1 | C22H36N2
reactant | phenyl 2,4,6-trifluorophenylcarbamate | 1.26 g | FC1=C(C(=CC(=C1)F)F)NC(OC1=CC=CC=C1)=O | C13H8F3NO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-bis[[1-cycloheptyl-3-(2,4,6-trifluorophenyl)ureido]methyl]benzene | 1.02 g | C1(CCCCCC1)N(C(=O)NC1=C(C=C(C=C1F)F)F)CC1=CC(=CC=C1)CN(C(=O)NC1=C(C=C(C=C1F)F)F)C1CCCCCC1 | C36H40F6N4O2
